US04185992
4-bromo-3-chlorotoluene [31.8 g, described by Cohen and Raper, J. Chem. Soc., 85, 1267 (1904)] was heated with N-bromosuccinimide (27.5 g) and benzoyl peroxide (3.6 g) in carbon tetrachloride (75 ml) at reflux for 10 hours. The cooled solution was filtered, washed with aqueous ferrous sulphate solution, dried over magnesium sulphate, filtered and evaporated to dryness. 4-Bromo-3-chlorobenzyl bromide (44 g) was obtained as a pale orange oil.

reactant | 4-bromo-3-chlorotoluene | 31.8 g | BrC1=C(C=C(C=C1)C)Cl | C7H6BrCl
reactant | N-bromosuccinimide | 27.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 75 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 3.6 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-Bromo-3-chlorobenzyl bromide | 44 g | BrC1=C(C=C(CBr)C=C1)Cl | C7H5Br2Cl
